US06489314B1
(d) tert-butyl (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoate
A solution of (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoic acid (11.8 g), tert-butanol (4.5 g), and 4-dimethylaminopyridine (0.2 g) in 20 mL of CH2Cl2 is cooled on ice and treated with dicyclohexylcarbodiimide (4.6 g) over a 5-minute period. The mixture is allowed to warm to ambient temperature and is stirred for 3 hours. The slurry is diluted with CH2Cl2 and filtered, and the filtrate is washed sequentially with sat. aq. citric acid, 5% NaHCO3, and brine. The solution is dried over Na2SO4, filtered, and evaporated. The product is purified by chromatography on SiO2.

reactant | (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoic acid | 11.8 g | O=C(C([C@H]([C@@H](C(=O)O)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C25H43Cl3O7Si
reactant | tert-butanol | 4.5 g | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 4.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoate | O=C(C([C@H]([C@@H](C(=O)OC(C)(C)C)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C29H51Cl3O7Si
